US05627234
The resulting mixture is then heated up to a temperature of 45° C. and to it 0.046 g of n-butyl lithium in n-hexane is added. After a 20-minute reaction, the temperature is increased up to 58° C. A sample is collected in order to verify that isoprene has undergone complete conversion, and then 17 g of styrene is added and the reaction is allowed to proceed during a further 20 minutes, until the second monomer has undergone complete conversion too. The temperature of the end mixture results to be of approximately 63° C. In that way, a living diblock isoprene-styrene polymer (I--S) is obtained. In the third reaction step isoprene is added in an amount of 74 g, with the living triblock copolymer of (I1 --S--I2) type being obtained which is submitted to coupling with monobromoethane.

reactant | n-butyl lithium | 0.046 g | C(CCC)[Li]
reactant | n-hexane | CCCCCC | C6H14
product | isoprene styrene | C=CC(C)=C.C=CC1=CC=CC=C1 | InChI=1S/C8H8.C5H8/c1-2-8-6-4-3-5-7-8;1-4-5(2)3/h2-7H,1H2;4H,1-2H2,3H3
